US07018997B2
Step 5: Preparation of 6-(5-methoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacen-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid
6-[acetoxy-(5-methoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacen-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (966 mg, 1.4 mmol) was suspended in 20 ml THF and 20 ml pH=6.5 aqueous phosphate buffer. The mixture was then subjected to 45 psi hydrogen for two hours. Then it was filtered through a pad of celite and concentrated in vacuo to remove most of the THF. The solution was then cooled to zero degree and basified to pH=8 with 1 N sodium hydroxide. Then it was purified via reverse phase HPLC using 1 liter of water followed by 5%-25% acetonitrile and water. Water was then removed through concentrate in vacuo and 100 mg of product was collected.

reactant | 6-[acetoxy-(5-methoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacen-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 1.4 mmol, 966 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)(Br)C(C2=CN3C=4CCCC4C(=NC3=N2)OC)OC(C)=O)=O)C=C1 | C26H22BrN5O8S
reactant | hydrogen | [H][H] | H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | phosphate | 20 ml, pH=6.5 | P(=O)([O-])([O-])[O-]
product | 6-(5-methoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacen-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid | COC1=NC2=NC(=CN2C=2CCCC12)C=C1C2SC=C(N2C1=O)C(=O)O | C17H14N4O4S
